US06831175B2
6-bromo-3-hydroxyquinoline-4-carboxylic acid
A solution of 5-bromoisatin (2.26 g, 10 mmol) and potassium hydroxide (4.48 g, 80 mmol) in water (10 mL) was warmed until the materials were dissolved then cooled to room temperature, treated with bromopyruvic acid (2.3 g, 14 mmol), stirred for 6 days, adjusted to pH <7 with concentrated HCl, and filtered. The solid was washed with water and ethanol and dried to provide the desired product (1.5 g, 58%). MS (DCI/NH3) m/e 269 (M+H)+.

reactant | 5-bromoisatin | 10 mmol, 2.26 g | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | potassium hydroxide | 80 mmol, 4.48 g | [OH-].[K+]
reactant | bromopyruvic acid | 14 mmol, 2.3 g | BrCC(C(=O)O)=O | C3H3BrO3
reactant | HCl | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 6-bromo-3-hydroxyquinoline-4-carboxylic acid | 1.5 g, 58% | BrC=1C=C2C(=C(C=NC2=CC1)O)C(=O)O | C10H6BrNO3
